US07585885B2
2-Chloro-5-(methyl-propylcarbamoyl)-nicotinic acid
Dissolve 2-chloro-5-(methyl-propylcarbamoyl)-nicotinic acid methyl ester (96 mg, 0.35 mmol) in 1 N sodium hydroxide (0.71 mL, 0.71 mmol) and methanol (2 mL). Stir at room temperature for 2 h. Concentrate organic and redissolve the residue in water (15 mL). Wash with dichloromethane (3×10 mL), acidify the aqueous layer with 1 N HCl to about pH=2. Extract with dichloromethane, dry (sodium sulfate) and concentrate to give the crude title product which is used in the next step without further purification.

reactant | 2-chloro-5-(methyl-propylcarbamoyl)-nicotinic acid methyl ester | 0.35 mmol, 96 mg | COC(C1=C(N=CC(=C1)C(N(CCC)C)=O)Cl)=O | C12H15ClN2O3
reactant | sodium hydroxide | 0.71 mmol, 1 N, 0.71 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
product | 2-Chloro-5-(methyl-propylcarbamoyl)-nicotinic acid | ClC1=C(C(=O)O)C=C(C=N1)C(N(CCC)C)=O | C11H13ClN2O3
